US04703046
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 700 mg.) was treated with conc. hydrochloric acid (1 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 660 mg.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 700 mg | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)=NOC)Br | C17H16BrN9O6S3
reactant | hydrochloric acid | 1 ml | Cl | ClH
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride | 660 mg | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)=NOC)Br | InChI=1S/C16H16BrN9O5S3.ClH/c1-4(33-16-21-24-25-22-16)5-3-32-13-8(12(28)26(13)9(5)14(29)30)19-11(27)7(23-31-2)6-10(17)34-15(18)20-6;/h4,8,13H,3H2,1-2H3,(H2,18,20)(H,19,27)(H,29,30)(H,21,22,24,25);1H/t4?,8?,13-;/m1./s1
